US04294960
Thionyl chloride (0.423 g.) was dropwise added to a stirred solution of 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate (syn isomer, 1 g.) in N,N-dimethylformamide (10 ml.) under ice cooling over 2 minutes, and the solution was stirred at room temperature for 1.1 hours. Ethyl acetate (40 ml.) and water (30 ml.) were added to the resultant solution and shaken sufficiently. The aqueous layer was extracted with ethyl acetate, and the extract was combined with the ethyl acetate layer separated above. The ethyl acetate solution was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (30 g.) and eluted with chloroform and then a mixture of chloroform and ethyl acetate (7:3). The latter eluate was concentrated under reduced pressure to give 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 0.2 g.), mp 216° C. (dec.).

reactant | Thionyl chloride | 0.423 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate | 1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O9S2
reactant | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 0.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H17ClN6O8S2
